US07807676B2
Part A: To a solution of ethyl 3,3-diethoxypropionate (90% tech.) (5.28 g, 25 mmol) in 50 mL of THF was added 1.00 N sodium hydroxide in water (25.00 mL, 25 mmol), and the resulting mixture was stirred at 25° C. for 18 h. The mixture then was concentrated under vacuum to afford a residual white solid. This solid was dissolved in 50 mL of DMF. To the solution was added EDCI (5.75 g, 30.0 mmol), 1-hydroxybenzotriazole (4.56 g, 33.8 mmol), and benzyl piperazine-1-carboxylate (5.51 g, 25.0 mmol), and the resulting mixture was stirred at 25° C. for 24 h. The reaction mixture was concentrated under vacuum, and the residue was diluted with water. The aqueous mixture was extracted with ethyl acetate, and the combined extracts were washed aqueous sodium bicarbonate solution and brine, dried over anhydrous sodium sulfate, filtered, and concentrated. Column chromatography on silica gel (elution: 10-40% ethyl acetate/chloroform) furnished 8.00 g (88%) of benzyl 4-(3,3-diethoxypropanoyl)piperazine-1-carboxylate as an oil; 1H NMR (500 MHz, CDCl3) δ 57.34 (m, 5H), 5.14 (s, 2H), 4.90 (t, 1H, J=5.5 Hz), 3.73-3.46 (m, 12H), 2.68 (d 2H, J=5.5 Hz), 1.19 (t, 6H, J=7.0 Hz).

reactant | ethyl 3,3-diethoxypropionate | 25 mmol, 5.28 g | C(C)OC(CC(=O)OCC)OCC | C9H18O4
reactant | sodium hydroxide | 1.00 N | [OH-].[Na+]
reactant | water | 25 mmol, 25.00 mL | O | H2O
reactant | EDCI | 30.0 mmol, 5.75 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 33.8 mmol, 4.56 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | benzyl piperazine-1-carboxylate | 25.0 mmol, 5.51 g | N1(CCNCC1)C(=O)OCC1=CC=CC=C1 | C12H16N2O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | benzyl 4-(3,3-diethoxypropanoyl)piperazine-1-carboxylate | 8.00 g, 88% | C(C)OC(CC(=O)N1CCN(CC1)C(=O)OCC1=CC=CC=C1)OCC | C19H28N2O5
